US06784192B2
4-(2,3-Methylenedioxyphenethyl)piperidine
20.3 g of 1-benzyl-4-(2,3-methylenedioxyphenethyl)piperidine was dissolved in 10 ml of 1,2-dichloroethane, 7 ml of 1-chloroethyl chloroformate was added thereto under ice-cooling, and the mixture was heated under reflux for 30 minutes. The solvent was evaporated, the resulting residue was dissolved in 100 ml of methanol, and the mixture was heated under reflux for one hour. The solvent was removed, the resulting residue was basified by adding a 5N aqueous sodium hydroxide, and the mixture was extracted with ethyl acetate. The organic layer was washed with brine, and then dried over anhydrous magnesium sulfate. The solvent was evaporated, and the crude product was purified by NH form silica gel column chromatography (ethyl acetate), to give 13.1 g of the title compound as a pale yellow oil.

reactant | 1-benzyl-4-(2,3-methylenedioxyphenethyl)piperidine | 20.3 g | C(C1=CC=CC=C1)N1CCC(CC1)CCC1=C2C(=CC=C1)OCO2 | C21H25NO2
reactant | 1-chloroethyl chloroformate | 7 ml | ClC(=O)OC(C)Cl | C3H4Cl2O2
solvent | 1,2-dichloroethane | 10 ml | ClCCCl | C2H4Cl2
product | 4-(2,3-Methylenedioxyphenethyl)piperidine | 13.1 g | C1OC2=C(CCC3CCNCC3)C=CC=C2O1 | C14H19NO2
